US05424444
23c. 1-(1-CBZ-2(S)-pyrrolidinyl)-1-buten-3-one
To a 350 mg (1.50 mmol) sample of CBZ-L-prolinal, from step 23b above, dissolved in 5 mL of methylene chloride was added 576 mg of 1-triphenylphosphoranylidene-2-propanone (Aldrich, 1.81 mmmol). The reaction was stirred at room temperature for 45 min, then heated at reflux for 1.3 hr. The solution was cooled, and a precipitate formed. The mixture was extracted with methylene chloride (3×10 mL). The combined organics were washed with brine and dried over MgSO4. The residue was chromatographed on silica gel, eluting with 25-35% ether in hexane. The title compound was isolated by removal of solvent (279 mg). Anal. Calcd for C16H19NO3: C, 70.31; H, 7.01; N, 5.12; Found: C, 70.20; H, 7.02; N, 5.10.

reactant | CBZ-L-prolinal | C(=O)(OCC1=CC=CC=C1)N1[C@H](C=O)CCC1 | C13H15NO3
reactant | 1-triphenylphosphoranylidene-2-propanone | 576 mg | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-CBZ-2(S)-pyrrolidinyl)-1-buten-3-one | C(=O)(OCC1=CC=CC=C1)N1[C@@H](CCC1)C=CC(C)=O | C16H19NO3
